US05073659
A tetrahydrofuran solution of 3,7-dimethyloctylmagnesium bromide was prepared from 6.64 g (0.03 mol) of 3,7-dimethyloctyl bromide, 0.73 g of metallic magnesium, 50 ml of tetrahydrofuran and 3 droplets of ethylene dibromide in a similar manner to that described in Example 1 and cooled to 5° C., followed by the addition of 0.6 g (0.003 mol) of CuBr·(CH3)2S. The obtained mixture was stirred at that temperature for 30 minutes. 50 ml of a solution of 3.4 g (0.02 mol) of 3-chloro-6-methylene-2-methyloctadiene-1,7 having a purity of 70% in tetrahydrofuran was dropped into the resulting mixture over a period of 30 minutes. After the completion of the dropping, the obtained mixture was stirred at that temperature for one hour and subjected to TLC and HPLC to confirm the disappearance of the chlorine-containing raw material.

reactant | 3,7-dimethyloctyl bromide | 0.03 mol, 6.64 g | CC(CCBr)CCCC(C)C | C10H21Br
reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | ethylene dibromide | C(CBr)Br | C2H4Br2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,7-dimethyloctylmagnesium bromide | CC(CC[Mg]Br)CCCC(C)C | InChI=1S/C10H21.BrH.Mg/c1-5-10(4)8-6-7-9(2)3;;/h9-10H,1,5-8H2,2-4H3;1H;/q;;+1/p-1
